US07282501B2
3-[4-Hydroxy-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid methyl ester
A solution of 3-[4-hydroxy-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid tert-butyl ester (3.0 mmol, 1.0 g) in CH2Cl2 (10 mL) was treated with 90% CF3CO2H/H2O (20 mL) at ambient temperature. The mixture was stirred for 3 h and concentrated. The residue was dissolved in MeOH (20 mL), treated with conc. H2SO4 (1 mL), and heated at reflux for 14 h. The mixture was cooled and concentrated. The residue was dissolved in water/ethyl acetate and neutralized with K2CO3. The organic layer was dried (Na2SO4), and concentrated to give the title compound (0.76 g, 86%). HRMS Calculated for C15H22NO5: m/z 296.1498. Found: 296.1504.

reactant | 3-[4-hydroxy-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid tert-butyl ester | 3.0 mmol, 1.0 g | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O)CNC(=O)OC(C)C)=O | C18H27NO5
reactant | CF3CO2H H2O | 20 mL | C(F)(F)(F)C(=O)O.O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-[4-Hydroxy-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid methyl ester | 0.76 g, 86% | COC(CCC1=C(C=C(C=C1)O)CNC(=O)OC(C)C)=O | C15H21NO5
